US04623662
1-[(4-Butylphenyl)methyl]-3-(4-chloro-2-methylphenyl)-1-(6-cyanohexyl)urea
A mixture of 2.0 g of 1-[(4-butylphenyl)methyl]-3-(4-chloro-2-methylphenyl)-1-[6-[(methylsulfonyl)oxy]-hexyl]urea, 0.5 g of sodium cyanide, and 3.0 ml of dimethyl sulfoxide was heated at an oil bath temperature of 60°-70° C. for 16 hours. The mixture was poured into water and extracted with dicholormethane. The procedure of Example 518 was continued and gave 1.5 g (88% yield) of the desired product as a brown oil.

reactant | 1-[(4-butylphenyl)methyl]-3-(4-chloro-2-methylphenyl)-1-[6-[(methylsulfonyl)oxy]-hexyl]urea | 2.0 g | C(CCC)C1=CC=C(C=C1)CN(C(=O)NC1=C(C=C(C=C1)Cl)C)CCCCCCOS(=O)(=O)C | C26H37ClN2O4S
reactant | sodium cyanide | 0.5 g | [C-]#N.[Na+]
reactant | dimethyl sulfoxide | 3.0 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-[(4-Butylphenyl)methyl]-3-(4-chloro-2-methylphenyl)-1-(6-cyanohexyl)urea | 1.5 g, 88% yield | C(CCC)C1=CC=C(C=C1)CN(C(=O)NC1=C(C=C(C=C1)Cl)C)CCCCCCC#N | C26H34ClN3O
